US07799805B2
(4-Chloro-3-cyclopropylaminomethyl-benzyl)-cyclopropylmethyl-carbamic acid tert-butyl ester
A mixture of (4-chloro-3-formyl-benzyl)-cyclopropylmethyl-carbamic acid tert-butyl ester (1.00 g, 3.09 mmol), Et3N (0.646 mL, 4.64 mmol) and cyclopropylamine (0.325 mL, 4.64 mmol) in MeOH (10.5 mL) was heated to reflux for 4 h. The mixture was allowed to cool to rt, and NaBH4 (292 mg, 7.71 mmol) was added. The mixture was stirred for 1 h, and aq. sat. NaHCO3 was added. The mixture was extracted with EtOAc (2×). The combined org. extracts were dried over MgSO4, filtered, and the solvents were removed under reduced pressure. Purification of the crude by FC (MeOH/CH2Cl2 1:49) yielded the title compound (535 mg, 48%). LC-MS: tR=0.81 min; ES+: 406.20.

reactant | (4-chloro-3-formyl-benzyl)-cyclopropylmethyl-carbamic acid tert-butyl ester | 3.09 mmol, 1.00 g | C(C)(C)(C)OC(N(CC1CC1)CC1=CC(=C(C=C1)Cl)C=O)=O | C17H22ClNO3
reactant | Et3N | 4.64 mmol, 0.646 mL | CCN(CC)CC | C6H15N
reactant | cyclopropylamine | 4.64 mmol, 0.325 mL | C1(CC1)N | C3H7N
reactant | NaBH4 | 7.71 mmol, 292 mg | [BH4-].[Na+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | MeOH | 10.5 mL | CO | CH4O
product | (4-Chloro-3-cyclopropylaminomethyl-benzyl)-cyclopropylmethyl-carbamic acid tert-butyl ester | 535 mg, 48% | C(C)(C)(C)OC(N(CC1CC1)CC1=CC(=C(C=C1)Cl)CNC1CC1)=O | C20H29ClN2O2
